US06933304B2
4-Methyl-4-propyl-dihydro-pyran-2,6-dione:
Following the procedure of Vogel, A. I.; J. Chem. Soc., 1934; 1758-1765: 4-Methyl-2,6-dioxo-4-propyl-piperidine-3,5-dicarbonitrile was dissolved in 50 mL of sulfuric acid and stirred for 16 hrs. Water (50 mL) was added and the solution was refluxed for 18 hrs. Upon cooling, the crystals were collected. The crystals were suspended in 10 mL of acetic anhydride. The suspension was heated to 130° C. and stirred for 16 hrs. The solvent was removed under reduced pressure. The residue was partitioned between saturated aqueous sodium bicarbonate and diethyl ether. The ether fraction was treated with anhydrous magnesium sulfate and concentrated under reduced pressure to give the product MS (ESI+) for C9H14O3 m/z 171.2 (M+H)+.

reactant | 4-Methyl-2,6-dioxo-4-propyl-piperidine-3,5-dicarbonitrile | CC1(C(C(NC(C1C#N)=O)=O)C#N)CCC | C11H13N3O2
reactant | Water | 50 mL | O | H2O
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
product | 4-Methyl-4-propyl-dihydro-pyran-2,6-dione | CC1(CC(OC(C1)=O)=O)CCC | C9H14O3
